US08729102B2
B) methyl 1-benzyl-4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate
Using methyl 4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate and benzyl bromide, and in the same manner as in Example 1, step A, the title compound was obtained.

reactant | methyl 4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate | BrC=1C(=NNC1C(=O)OC)OC[C@H](C)NC(=O)OC(C)(C)C | C13H20BrN3O5
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | methyl 1-benzyl-4-bromo-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-1H-pyrazole-5-carboxylate | C(C1=CC=CC=C1)N1N=C(C(=C1C(=O)OC)Br)OC[C@H](C)NC(=O)OC(C)(C)C | C20H26BrN3O5
